US07544702B2
2,4-Dichloro-5-methyl-N-{4-methyl-5-[4-(piperidine-1-sulfonyl)-phenylsulfanyl]-pyridin-2-yl}-benzenesulfonamide was prepared from 2-amino-5-bromo-4-methylpyridine and 4-(N-piperidinylsulfonyl)thiophenol according to General Method 11 step 1 followed by reaction with 2,4-dichloro-5-methylphenylsulfonyl chloride according to General Method 11 step 2. 1H NMR (CDCl3): 13.20 (1H, br s, NH), 8.40 (1H, s, A-ring CH ortho to 2×Cl), 8.03 (1H, s, A-ring CH ortho to SO2NH), 7.53 & 7.04 (2×2H, 2×d, 2×J 10 Hz, Ar CH's of C-ring), 7.41 & 7.15 (2×1H, 2×s, pyridyl CH's), 2.91-2.83 (4H, m, CH2NCH2), 2.38 & 2.23 (2×3H, 2×s, 2×CH3), 1.61-1.48 (4H, m, CH2CH2CH2CH2CH2), 1.39-1.28 (2H, m, CH2CH2CH2CH2CH2). Hplc (Luna 2, Gradient 5): rt=6.73 minutes. LC/MS rt=7.43 minutes, 586/588 (MH+).

reactant | 2-amino-5-bromo-4-methylpyridine | NC1=NC=C(C(=C1)C)Br | C6H7BrN2
reactant | 4-(N-piperidinylsulfonyl)thiophenol | N1(CCCCC1)S(=O)(=O)C1=CC=C(C=C1)S | C11H15NO2S2
reactant | 2,4-dichloro-5-methylphenylsulfonyl chloride | ClC1=C(C=C(C(=C1)Cl)C)S(=O)(=O)Cl | C7H5Cl3O2S
product | 2,4-Dichloro-5-methyl-N-{4-methyl-5-[4-(piperidine-1-sulfonyl)-phenylsulfanyl]-pyridin-2-yl}-benzenesulfonamide | ClC1=C(C=C(C(=C1)Cl)C)S(=O)(=O)NC1=NC=C(C(=C1)C)SC1=CC=C(C=C1)S(=O)(=O)N1CCCCC1 | C24H25Cl2N3O4S3
